US05767285
4-(4-Acetyl-3-fluorophenoxy)butanoic acid, ethyl ester (20 mg, 0.0745 mmol) is dissolved in 1 mL of methanol/water (3:2) and treated with 30.91 mg (0.22 mmol) of potassium carbonate according to the procedure described for Example 4 to give 14 mg (82%) of 4-(4-acetyl-3-fluorophenoxy)butanoic acid as a white powder: m.p. 110°-111° C.; The 1H NMR (300 MHz, CDCl3) is consistent with the desired product; IR (KBr) 1710, 1670, 1610 cm-1 ; MS m/e calculated for C12H13 O4FNa: 263.0695, found 263.0699.

reactant | 4-(4-Acetyl-3-fluorophenoxy)butanoic acid, ethyl ester | 0.0745 mmol, 20 mg | C(C)(=O)C1=C(C=C(OCCCC(=O)OCC)C=C1)F | C14H17FO4
reactant | potassium carbonate | 0.22 mmol, 30.91 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol water | 1 mL | CO.O
product | 4-(4-acetyl-3-fluorophenoxy)butanoic acid | 14 mg, 82% | C(C)(=O)C1=C(C=C(OCCCC(=O)O)C=C1)F | C12H13FO4
